US03952025
A solution of 3.9 g. of acetyl chloride in 25 ml. of chloroform is added to a cooled solution of 11.0 g. of 1-cyclopropyl-2-phenyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine and 5.0 g. of triethylamine in 50 ml. of dry chloroform. The mixture is stirred at ambient temperature for 20 hours, washed with water, dried, and concentrated to provide 1-cyclopropyl-2-phenyl-5-acetyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine as an oil. The oil is treated according to the manipulative procedure described above in Example 2, to give crystals, m.p. 85°C. dec., of 1-cyclopropyl-2-phenyl-5-ethyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine oxalate.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 1-cyclopropyl-2-phenyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine | C1(CC1)N1C(=CC=2CNCCCC21)C2=CC=CC=C2 | C17H20N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclopropyl-2-phenyl-5-acetyl-1,4,5,6,7,8-hexahydropyrrolo[3,2-c]azepine | C1(CC1)N1C(=CC=2CN(CCCC21)C(C)=O)C2=CC=CC=C2 | C19H22N2O
